*PSpice Modeling Apps Index library File
*$
.SUBCKT ST_Model P1 P2 S1 S2
* Model generated on 2025 January 17
* MODEL FORMAT: PSpice
* MODEL Type: ST_Model
LP1 PI P2 1m
RP1 P1 PI 10m
RS1 S1 SI 10m
RG1 S2 0 1G
K1 LP1 LS1 1
LS1 SI SI1 1.0000e-1
LL1 SI1 S2 100n
.ends ST_Model
 .SUBCKT ST1_Model P1 P2 S1 S2
* Model generated on 2025 January 17
* MODEL FORMAT: PSpice
* MODEL Type: ST1_Model
LP1 PI P2 1m
RP1 P1 PI 10m
RS1 S1 SI 10m
RG1 S2 0 1G
K1 LP1 LS1 1
LS1 SI SI1 1.0000e-5
LL1 SI1 S2 100n
.ends ST1_Model
