* source LAB01_TASK4
V_V1         N00122 0 5
R_R1         N00122 N00396  2.2k TC=0,0 
R_R2         0 N00396  1k TC=0,0 
X_D1         N00396 0 awb1n4001 PARAMS:                
