* source LAB1_TASK5
V_V1         N01159 0 15
R_R1         N01159 N01710  1k TC=0,0 
X_D1         N01710 0 LED PARAMS: IS=1.7603e-027 RS=2  BV=5 IBV=10e-6         
