* source FIN
V_V1         N00297 0 0Vdc
V_V2         0 N00697 5
V_V3         N00744 0 5
R_R1         N00297 N00316  10k TC=0,0 
V_V4         N00316 N00744 2
V_V5         N00697 N00316 1
