* source LB10
R_RS         0 N00463  100 TC=0,0 
R_RD         N00469 N00584  220 TC=0,0 
V_V1         0 N01301  AC 0
+SIN 0 0 0 0 0 0
R_R5         N00355 N00584  100k TC=0,0 
R_R6         0 N00355  56k TC=0,0 
R_R7         0 N00758  100Meg TC=0,0 
C_C2         N00469 N00758  1u  TC=0,0 
C_C3         0 N00463  15u  TC=0,0 
V_VDD         N00584 0 10V
X_U2         N00469 N00355 N00463 2N7000
C_C4         N01301 N00355  1u  TC=0,0 
